US07592477B2
Step c) Formation of tert-butyl(1S)-1-[4-(trifluoromethyl)phenyl]ethyl[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]carbamate
The same procedure as employed in the preparation of Example 258 (step a and b) but using benzyl 4-[((tert-butoxycarbonyl){(1S)-1-[4-(trifluoromethyl)phenyl]ethyl}amino)methyl]benzoate and N-hydroxydodecanimidamide gave the title compound as a colorless oil (85%). 1H NMR (CDCl3, 300 MHz) δ 8.02 (d, J=8.1 Hz, 2H), 7.53 (d, J=8.1 Hz, 2H), 7.34-7.17 (m, 4H), 4.47 (br s, 1H), 4.35 (br s, 1H), 2.75 (t, J=7.5 Hz, 2H), 1.83-1.69 (m, 2H), 1.60-1.14 (m, 29H), 0.90 (t, J=7.0 Hz, 311). HPLC (Condition A), Rt: 8.02 min (HPLC purity: 95.7%).

reactant | benzyl 4-[((tert-butoxycarbonyl){(1S)-1-[4-(trifluoromethyl)phenyl]ethyl}amino)methyl]benzoate | C(C)(C)(C)OC(=O)N([C@@H](C)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C29H30F3NO4
reactant | N-hydroxydodecanimidamide | ONC(CCCCCCCCCCC)=N | C12H26N2O
product | tert-butyl(1S)-1-[4-(trifluoromethyl)phenyl]ethyl[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]carbamate | 85% | FC(C1=CC=C(C=C1)[C@H](C)N(C(OC(C)(C)C)=O)CC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC)(F)F | C34H46F3N3O3
